US08633186B2
Prepared as in Example 111c from 2,6-dinitrobenzonitrile and pentanol to provide 2-nitro-6-(pentyloxy)benzonitrile.

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | pentanol | C(CCCC)O | C5H12O
product | 2-nitro-6-(pentyloxy)benzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCCCCC | C12H14N2O3
